US04025527
N,N'-bis-[2-((4-Methyl-5-imidazolyl)methylthio)ethyl]thiourea
A solution prepared from S-methyl-N-[2-((4-methyl-5-imidazolyl)methylthio))ethyl]dithiocarbamate hydriodide (15.6 g.), 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (6.8 g.) in ethanol (200 ml.) containing sodium (0.9 g.) was heated under reflux for 8 hours. Concentration followed by chromatograph purification of the product on a column of silica gel with ethyl acetate-isopropyl alcohol (5:1) as eluant gave the title compound which was converted to the dihydrochloride (2.5 g., m.p. 115°-120°) with ethanolic hydrogen chloride.

reactant | dithiocarbamate hydriodide | 15.6 g | I.C(N)(S)=S
reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 6.8 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | sodium | 0.9 g | [Na] | Na
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N,N'-bis-[2-((4-Methyl-5-imidazolyl)methylthio)ethyl]thiourea | CC=1N=CNC1CSCCNC(=S)NCCSCC1=C(N=CN1)C | C15H24N6S3
